US07968746B2
6-Hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (1 equiv.) was dissolved to 0.2 M THF and the stirred pale yellow solution treated with carbonyldiimidazole (CDI) (1.1 equiv.). The reaction was let stir for one hour and a solution of amine (1.1 equiv 0.2 M in THF) was added over one hour and the reaction stirred overnight. The solution was concentrated, dissolved to 0.04 M in CH2Cl2 and washed sequentially with half-volumes of 0.5 M HCl, 1.0 M NaHCO3, saturated NaCl, the organic layer dried over Na2SO4 and concentrated. Flash chromatography yielded the desired 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide derivative.

reactant | 6-Hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 1 equiv. | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | carbonyldiimidazole | 1.1 equiv. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)N)C)C | C14H19NO3
